US04978792
Reaction was carried out in the same manner as in Example 1 except that p-nitrobenzaldehyde was replaced by m-nitrobenzaldehyde Reaction was complete in 115 minutes, during which hydrogen (32 Nl) was absorbed. Post-treatment as in Example 1 was successively carried out to obtain M-aminobenzylamine having a purity of 99.91% (46.7 g, yield 95.5%, b.p. 131°-132° C./6 mm Hg).

reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | m-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | hydrogen | [H][H] | H2
product | M-aminobenzylamine | yield 95.5% | NC=1C=C(CN)C=CC1 | C7H10N2
